US07465726B2
5-Amino-1-phenyl-1H-pyridin-2-one
To a suspension of 5-nitro-1-phenyl-1H-pyridin-2-one (60 mg, 0.28 mmol) in ethyl acetate (2 mL) and ethanol (2 mL) was added 5% Pd—C (10 mg), the resulting mixture was stirred under hydrogen atmosphere for 3 h. The catalyst was removed by filtration, and the filtrate was concentrated to give the title compound as a green oil. The product was used to next step without further purification. LC-MS (ES, Pos.): 187 [MH+], and 1H NMR (CDCl3, 400 MHz): δ=3.09 (br s, 2H), 6.60 (d, J=9.6 Hz, 1H), 6.82 (d, J=3.0 Hz, 1H), 7.12 (dd, J=9.6, 3.0 Hz, 1H), 7.37-7.41 (m, 3H), 7.45-7.49 (m, 2H).

reactant | 5-nitro-1-phenyl-1H-pyridin-2-one | 0.28 mmol, 60 mg | [N+](=O)([O-])C=1C=CC(N(C1)C1=CC=CC=C1)=O | C11H8N2O3
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd—C | 10 mg | [Pd] | Pd
product | 5-Amino-1-phenyl-1H-pyridin-2-one | NC=1C=CC(N(C1)C1=CC=CC=C1)=O | C11H10N2O
